US07897595B2
To a solution of 2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (303 mg, 1.00 mmol) in MeCN (6 ml) was added a solution of NCS (134 mg, 1.00 mmol) in MeCN (6 ml). The resulting mixture was stirred for 2 h at 50° C. and then quenched with excess of sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 165 mg (49%) of 4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 4.28 (0.5H), 3.95 (2.5H), 3.88 (3H), 3.71 (2H), 3.61 (1H), 3.34 (1H), 3.16 (1H), 2.99 (1H), 1.13 (3H) ppm. To a solution of CuBr2 (43.0 mg, 0.19 mmol) and nBuNO2 (28.0 μl, 0.24 mmol) in MeCN (2.7 ml) was added a solution of 4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (54.0 mg, 0.16 mmol) in MeCN (2 ml) at room temperature. After leaving the mixture for 16 h at room temperature, it was heated at 50° C. for 4 h. After removal of MeCN under reduced pressure, the reaction was quenched with sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 45 mg (70%) of 3-bromo-4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H NMR (CDCl3) δ 4.29 (0.5H), 4.00 (0.5H), 3.90 (3H), 3.85 (1H), 3.75 (1H), 3.40 (1H), 3.30 (1H), 3.20 (1H), 3.10 (1H), 1.16 (3H) ppm. A mixture of 3-bromo-4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (60 mg, 0.15 mmol), K2CO3 (62 mg, 0.45 mmol), MeOH (2.4 ml) and H2O (0.5 ml) was heated at 55-60° C. for 1 h. After removal of solvent under reduced pressure, the mixture was taken into aq. NaHCO3 and extracted with EtOAc. The organic layer was dried and concentrated in vacuo to give 45 mg (98%) of 3-bromo-4-chloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 3.89 (s, 3H), 3.58 (m, 1H), 3.22 (m, 2H), 3.09 (dd, 1H), 2.93 (m, 2H), 2.71 (dd, 1H), 1.24 (d, 3H) ppm.

reactant | 3-bromo-4-chloro-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 0.15 mmol, 60 mg | BrC1=C(C2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC)Cl | C13H13BrClF3N2O2
reactant | K2CO3 | 0.45 mmol, 62 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 2.4 ml | CO | CH4O
solvent | H2O | 0.5 ml | O | H2O
product | 3-bromo-4-chloro-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 45 mg, 98% | BrC1=C(C2=C(CCNCC2C)N=C1OC)Cl | C11H14BrClN2O
